US05580883
A solution of N-(4-aminophenyl)piperidine dihydrochloride (2.49 g) and triethylamine (5.6 g) in dichloroform (30 ml) was ice-cooled and to this was added dropwise acetyl chloride (1.42 ml). After stirred at room temperature for 30 minutes, water (10 ml) was added to the mixture and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off and then the residue was recrystallized from ethyl ether to obtain N(4-acetylaminophenyl)piperidine (2 g) as colorless crystals, m.p. 150°-152° C.

reactant | N-(4-aminophenyl)piperidine dihydrochloride | 2.49 g | Cl.Cl.NC1=CC=C(C=C1)N1CCCCC1
reactant | triethylamine | 5.6 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.42 ml | C(C)(=O)Cl | C2H3ClO
solvent | water | 10 ml | O | H2O
product | N(4-acetylaminophenyl)piperidine | 2 g | C(C)(=O)NC1=CC=C(C=C1)N1CCCCC1 | C13H18N2O
